US09446394B2
(3S,6R,7S,8S)-(S,E)-2-Methyl-1-(2-methylthiazol-4-yl)hexa-1,5-dien-3-yl 3,7-bis((tert-butyldimethylsilyl)oxy)-4,4,6,8-tetramethyl-5-oxotridec-12-enoate
A solution of (3S,6R,7S,8S)-(S,E)-2-methyl-1-(2-methylthiazol-4-yl)hexa-1,5-dien-3-yl 3-((tert-butyldimethylsilyl)oxy)-7-hydroxy-4,4,6,8-tetramethyl-5-oxotridec-12-enoate (Nicolaou, K. C.; He, Y.; Vourloumis, D.; Vallberg, H.; Roschangar, F.; Sarabia, F.; Ninkovic, S.; Yang, Z.; Trujillo, J. I. J. Am. Chem. Soc. 1997, 119, 7960-7973) in DCM at −50° C. was treated with 2,6-lutidine (1.82 mL, 15.7 mmol) followed by TBSOTf (3.60 mL, 15.7 mmol). The reaction mixture was stirred at the same temperature for 0.5 h, quenched by NH4Cl (sat.) and extracted with DCM (3×). The combined organic layers were dried (MgSO4), filtered and concentrated under reduced pressure. Purification by chromatography on SiO2 (hexanes:ethyl ether=100:2 to 10:1) followed by the second chromatography (hexanes: diethyl ether=100:4 to 100:6 to 10:1) afforded 0.281 g (73%) of the title compound as a colorless oil.

reactant | (3S,6R,7S,8S)-(S,E)-2-methyl-1-(2-methylthiazol-4-yl)hexa-1,5-dien-3-yl 3-((tert-butyldimethylsilyl)oxy)-7-hydroxy-4,4,6,8-tetramethyl-5-oxotridec-12-enoate | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)O[C@H](/C(=C/C=1N=C(SC1)C)/C)CC=C)C(C([C@@H]([C@H]([C@H](CCCC=C)C)O)C)=O)(C)C | C34H57NO5SSi
reactant | 2,6-lutidine | 15.7 mmol, 1.82 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | TBSOTf | 15.7 mmol, 3.60 mL | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (3S,6R,7S,8S)-(S,E)-2-Methyl-1-(2-methylthiazol-4-yl)hexa-1,5-dien-3-yl 3,7-bis((tert-butyldimethylsilyl)oxy)-4,4,6,8-tetramethyl-5-oxotridec-12-enoate | 0.281 g, 73% | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)O[C@H](/C(=C/C=1N=C(SC1)C)/C)CC=C)C(C([C@@H]([C@H]([C@H](CCCC=C)C)O[Si](C)(C)C(C)(C)C)C)=O)(C)C | C40H71NO5SSi2
